US07220862B2
(±)-3-(7-Methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid 1-aza-bicyclo[2.2.2]oct-3-yl ester
To a solution of (±)-3-(7-methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid (50 mg, 0.105 mmol), EDCI (100 mg), and 4-dimethylaminopyridine (0.2 equiv.) in dimethylformamide was added aza-bicyclo[2.2.2]oct-3-yl alcohol (0.525 mmol, 5 equiv.). The mixture was stirred at room temperature overnight. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate, washed with brine, dried over magnesium sulfate, and purified by preparative HPLC to yield the desired compound. LC/MS: tR=1.62 min, 586.41 (MH)+.

reactant | (±)-3-(7-methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | 0.105 mmol, 50 mg | CC=1C=C(C=C2C=NNC12)CC(C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C25H28N6O4
reactant | EDCI | 100 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | aza-bicyclo[2.2.2]oct-3-yl alcohol | 0.525 mmol, 5 equiv. | N12CC(C(CC1)CC2)O | C7H13NO
catalyst | 4-dimethylaminopyridine | 0.2 equiv. | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (±)-3-(7-Methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid 1-aza-bicyclo[2.2.2]oct-3-yl ester | N12CC(C(CC1)CC2)OC(C(CC=2C=C1C=NNC1=C(C2)C)NC(=O)N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O)=O | C32H39N7O4
